*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 4.1
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_0 1 2 3 4 REF
C_C1 1 REF 0.5566828144917pf
C_C2 1 2 20.130103818863pf
C_C3 1 3 0.0532574549032pf
C_C4 1 4 0.2576777816764pf
C_C5 2 REF 0.8318847090848pf
C_C6 2 3 0.1772971743557pf
C_C7 3 REF 1.0285831714616pf
C_C8 3 4 4.6023742594591pf
C_C9 4 REF 1.1427959115867pf
L_L1 3 5 1.2922414764372nh
R_RL1 5 4 -1.075408954e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_1 1 2 3 4 REF
C_C1 1 REF 0.5255523774208pf
C_C2 1 2 20.680951428851pf
C_C3 1 3 0.0464739684585pf
C_C4 1 4 0.2680849857124pf
C_C5 2 REF 0.8081537865561pf
C_C6 2 3 0.167434886065pf
C_C7 3 REF 1.0452225963186pf
C_C8 3 4 3.3516163338621pf
C_C9 4 REF 1.1269363231955pf
L_L1 3 5 1.293233614902nh
R_RL1 5 4 3.4026735193e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_2 1 2 3 4 REF
C_C1 1 REF 0.4981445145788pf
C_C2 1 2 21.327075449991pf
C_C3 1 3 0.0403047892041pf
C_C4 1 4 0.2787802256117pf
C_C5 2 REF 0.7896739613648pf
C_C6 2 3 0.1605672984229pf
C_C7 3 REF 1.0582659770044pf
C_C8 3 4 2.4801914085126pf
C_C9 4 REF 1.1147367351879pf
L_L1 3 5 1.2940587446422nh
R_RL1 5 4 1.858048563e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_3 1 2 3 4 REF
C_C1 1 REF 0.4691612983926pf
C_C2 1 2 22.256989613846pf
C_C3 1 3 0.0331711590758pf
C_C4 1 4 0.2927791786988pf
C_C5 2 REF 0.774085815125pf
C_C6 2 3 0.1552709396413pf
C_C7 3 REF 1.0707164584986pf
C_C8 3 4 1.7326353611202pf
C_C9 4 REF 1.1033031541366pf
L_L1 3 5 1.2948910683074nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_4 1 2 3 4 REF
C_C1 1 REF 0.4410751413804pf
C_C2 1 2 23.505833537396pf
C_C3 1 3 0.0252279541994pf
C_C4 1 4 0.3103538834836pf
C_C5 2 REF 0.7648193197653pf
C_C6 2 3 0.1524033068306pf
C_C7 3 REF 1.0815624677709pf
C_C8 3 4 1.1359950260582pf
C_C9 4 REF 1.0934899172267pf
L_L1 3 5 1.295720484433nh
R_RL1 5 4 -1.561836689e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_5 1 2 3 4 REF
C_C1 1 REF 0.4186330222837pf
C_C2 1 2 24.900547104647pf
C_C3 1 3 0.0176550241713pf
C_C4 1 4 0.3290586139886pf
C_C5 2 REF 0.7642485644522pf
C_C6 2 3 0.1524713719025pf
C_C7 3 REF 1.0891107476468pf
C_C8 3 4 0.7433711109122pf
C_C9 4 REF 1.0867159727455pf
L_L1 3 5 1.296381777556nh
R_RL1 5 4 -2.942450783e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_6 1 2 3 4 REF
C_C1 1 REF 0.4001447588196pf
C_C2 1 2 26.439048801946pf
C_C3 1 3 0.0102351615022pf
C_C4 1 4 0.3490306995374pf
C_C5 2 REF 0.7705271484044pf
C_C6 2 3 0.1547882784073pf
C_C7 3 REF 1.0942634146664pf
C_C8 3 4 0.4761362716865pf
C_C9 4 REF 1.0820841806335pf
L_L1 3 5 1.2969209547768nh
R_RL1 5 4 -4.367481142e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_7 1 2 3 4 REF
C_C1 1 REF 0.3815811205081pf
C_C2 1 2 28.439485955916pf
C_C3 1 4 0.3743042195803pf
C_C4 2 REF 0.784627444559pf
C_C5 2 3 0.1598052074897pf
C_C6 3 REF 1.0980582725077pf
C_C7 3 4 0.264570387935pf
C_C8 4 REF 1.0786303375801pf
L_L1 3 5 1.2974259913958nh
R_RL1 5 4 -5.801699626e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_8 1 2 3 4 REF
C_C1 1 REF 0.3620300137552pf
C_C2 1 2 30.995432749673pf
C_C3 1 4 0.4058086292676pf
C_C4 2 REF 0.8068849988014pf
C_C5 2 3 0.1678754002136pf
C_C6 3 REF 1.1004023424937pf
C_C7 3 4 0.1032356395172pf
C_C8 4 REF 1.0764424022539pf
L_L1 1 5 84.173194557274nh
R_RL1 5 2 2.8114561789316
L_L2 3 6 1.2978686835592nh
R_RL2 6 4 -7.057823495e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_9 1 2 3 4 REF
C_C1 1 REF 0.3391700240964pf
C_C2 1 2 34.337031398575pf
C_C3 1 4 0.4459462503578pf
C_C4 2 REF 0.8381318410071pf
C_C5 2 3 0.1797612257282pf
C_C6 3 REF 1.1012877892247pf
C_C7 4 REF 1.0755699465228pf
L_L1 1 5 52.768433723737nh
R_RL1 5 2 2.5608260365352
L_L2 3 6 1.2981659184148nh
R_RL2 6 4 -7.882612226e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_10 1 2 3 4 REF
C_C1 1 REF 0.3096623144913pf
C_C2 1 2 38.752974352348pf
C_C3 1 4 0.4976832765315pf
C_C4 2 REF 0.8788167031233pf
C_C5 2 3 0.1962399702006pf
C_C6 3 REF 1.1009510294508pf
C_C7 4 REF 1.075872447119pf
L_L1 1 5 32.922897393148nh
R_RL1 5 2 1.6278250137129
L_L2 3 6 1.2979931504897nh
R_RL2 6 4 -7.99952868e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_11 1 2 3 4 REF
C_C1 1 REF 0.2674804069944pf
C_C2 1 2 44.910503188543pf
C_C3 1 4 0.5681185711486pf
C_C4 2 REF 0.9322783110948pf
C_C5 2 3 0.2194410285815pf
C_C6 3 REF 1.0996174197919pf
C_C7 4 REF 1.0772348931436pf
R_R1 1 2 -879.5239567155
L_L1 1 5 20.256041645084nh
R_RL1 5 2 0.6280264983197
L_L2 3 6 1.2976605777945nh
R_RL2 6 4 -7.17142193e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_12 1 2 3 4 REF
C_C1 1 REF 0.2038332374403pf
C_C2 1 2 53.889935783469pf
C_C3 1 4 0.668932032212pf
C_C4 2 REF 1.0052145500108pf
C_C5 2 3 0.2529458646636pf
C_C6 3 REF 1.097592254685pf
C_C7 4 REF 1.0794624549987pf
R_R1 1 2 -646.8397992807
L_L1 1 5 12.123265200743nh
R_RL1 5 2 -0.126252856351
L_L2 3 6 1.2971527005831nh
R_RL2 6 4 -5.212830001e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_13 1 2 3 4 REF
C_C1 1 REF 0.0989562048348pf
C_C2 1 2 68.322285232388pf
C_C3 1 4 0.8289667803682pf
C_C4 2 REF 1.1163799182445pf
C_C5 2 3 0.3059889715342pf
C_C6 3 REF 1.0950761660932pf
C_C7 4 REF 1.0825044609992pf
R_R1 1 2 -547.911875914
L_L1 1 5 7.0102216359738nh
R_RL1 5 2 -0.560266120134
L_L2 3 6 1.2962929323522nh
R_RL2 6 4 -2.520527778e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_14 1 2 3 4 REF
C_C1 1 2 93.9652387128pf
C_C2 1 4 1.111751751621pf
C_C3 2 REF 1.3083432007951pf
C_C4 2 3 0.3991288823293pf
C_C5 3 REF 1.0921759850171pf
C_C6 4 REF 1.0865343121217pf
R_R1 1 2 -556.6831475447
L_L1 1 5 3.4677239025241nh
R_RL1 5 2 0.0864108979555
L_L2 3 6 1.2948783203759nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_15 1 2 3 4 REF
C_C1 1 2 149.73202316386pf
C_C2 1 4 1.7261157763635pf
C_C3 2 REF 1.7213933221889pf
C_C4 2 3 0.6002916683618pf
C_C5 3 REF 1.0885771738993pf
C_C6 4 REF 1.0928391062393pf
L_L1 1 5 1.505050525965nh
R_RL1 5 2 0.002063272583
L_L2 1 6 64.308796835574nh
R_RL2 6 3 -0.115181928939
L_L3 1 7 63.575948166926nh
R_RL3 7 4 -0.117952707681
L_L4 2 8 64.402222006457nh
R_RL4 8 3 0.0295964834432
L_L5 2 9 63.672240996384nh
R_RL5 9 4 0.0298960372674
L_L6 3 10 1.2918868726838nh
R_RL6 10 4 1.5508970987e-5
Kn_K1 L_L1 L_L2 0.0717428661056
Kn_K2 L_L1 L_L3 0.072008595988
Kn_K3 L_L1 L_L4 -0.081180192395
Kn_K4 L_L1 L_L5 -0.081790687506
Kn_K5 L_L2 L_L3 0.9899142917766
Kn_K6 L_L2 L_L4 0.9883070072047
Kn_K7 L_L2 L_L5 0.9781353812408
Kn_K8 L_L2 L_L6 -0.111068492122
Kn_K9 L_L3 L_L4 0.9781879946659
Kn_K10 L_L3 L_L5 0.9881726055764
Kn_K11 L_L3 L_L6 0.0308427310518
Kn_K12 L_L4 L_L5 0.989929081455
Kn_K13 L_L4 L_L6 -0.110830708484
Kn_K14 L_L5 L_L6 0.0309774922702
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_16 1 2 3 4 REF
C_C1 1 2 342.14002898812pf
C_C2 1 4 3.8475287757807pf
C_C3 2 REF 3.1441042327869pf
C_C4 2 3 1.292226052344pf
C_C5 3 REF 1.0814915631452pf
C_C6 4 REF 1.1099536635624pf
R_R1 1 2 143.02157010359
L_L1 1 5 53.484464533918nh
R_RL1 5 REF 0.5815345781961
L_L2 1 6 0.4518325766111nh
R_RL2 6 2 -0.012284881867
L_L3 1 7 22.372882026607nh
R_RL3 7 3 -0.037706803718
L_L4 1 8 21.684977765446nh
R_RL4 8 4 -0.040158415739
L_L5 2 9 53.148532062677nh
R_RL5 9 REF 0.464430328319
L_L6 2 10 22.449062297639nh
R_RL6 10 3 0.0085263305342
L_L7 2 11 21.765090610745nh
R_RL7 11 4 0.0086728105179
L_L8 3 12 75.288602360279nh
R_RL8 12 REF 0.4712869477827
L_L9 3 13 1.2819536193507nh
R_RL9 13 4 1.9101510516e-5
L_L10 4 14 74.588654194875nh
R_RL10 14 REF 0.4697079426721
Kn_K1 L_L1 L_L2 0.0801242756033
Kn_K2 L_L1 L_L5 0.9957676734695
Kn_K3 L_L1 L_L8 0.8383665522869
Kn_K4 L_L1 L_L10 0.8421956863745
Kn_K5 L_L2 L_L3 0.0590753531902
Kn_K6 L_L2 L_L4 0.059376877926
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082894672826
Kn_K9 L_L2 L_L7 -0.084814102395
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9710213209863
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9899208189842
Kn_K15 L_L3 L_L7 0.9607209365373
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.183911029644
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9609485737017
Kn_K21 L_L4 L_L7 0.9896027899229
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0563348170587
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8377544480525
Kn_K26 L_L5 L_L10 0.8415491864897
Kn_K27 L_L6 L_L7 0.9711220130605
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.183232184154
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0566032894401
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1008675237273
Kn_K35 L_L8 L_L10 0.9914574554323
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_17 1 2 3 4 REF
C_C1 1 2 5183.7420691937pf
C_C2 1 4 57.115419786556pf
C_C3 2 REF 38.870434322611pf
C_C4 2 3 18.624408541483pf
C_C5 3 REF 0.9521214751286pf
C_C6 4 REF 1.503396813256pf
R_R1 1 REF -63.1668779971
R_R2 1 2 0.6420190868928
R_R3 1 3 -114.6450198765
R_R4 1 4 40.478808034237
R_R5 2 REF 63.211065633255
R_R6 2 3 114.66962418566
R_R7 2 4 -40.48447127193
L_L1 1 5 2.2645422033431nh
R_RL1 5 REF 0.0020962666331
L_L2 1 6 0.0201290180337nh
R_RL2 6 2 -6.080973863e-3
L_L3 1 7 1.7451807411306nh
R_RL3 7 3 -2.71198241e-3
L_L4 1 8 1.1927099113382nh
R_RL4 8 4 -5.723625786e-3
L_L5 2 9 2.2514505681533nh
R_RL5 9 REF -7.716898475e-3
L_L6 2 10 1.7482335753285nh
R_RL6 10 3 -6.113626379e-4
L_L7 2 11 1.2002178386852nh
R_RL7 11 4 2.168956998e-4
L_L8 3 12 3.9892551963876nh
R_RL8 12 REF -2.965289138e-3
L_L9 3 13 1.0699695423696nh
R_RL9 13 4 -4.464395977e-4
L_L10 4 14 3.430746504791nh
R_RL10 14 REF -6.548395593e-3
Kn_K1 L_L1 L_L2 0.0777994753418
Kn_K2 L_L1 L_L5 0.9955469090589
Kn_K3 L_L1 L_L8 0.7500275160784
Kn_K4 L_L1 L_L10 0.8076938982433
Kn_K5 L_L2 L_L3 0.0455542945543
Kn_K6 L_L2 L_L4 0.04072754039
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.061788423516
Kn_K9 L_L2 L_L7 -0.088903469823
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.015178532718
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6473526268429
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9942383897282
Kn_K16 L_L3 L_L7 0.6394252656287
Kn_K17 L_L3 L_L8 0.8543723800096
Kn_K18 L_L3 L_L9 -0.593653230478
Kn_K19 L_L3 L_L10 0.9200613889066
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6424169793067
Kn_K22 L_L4 L_L7 0.9915930020116
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2290478166346
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7495114707116
Kn_K27 L_L5 L_L10 0.8063327909087
Kn_K28 L_L6 L_L7 0.6484063293922
Kn_K29 L_L6 L_L8 0.8505694176486
Kn_K30 L_L6 L_L9 -0.591505972715
Kn_K31 L_L6 L_L10 0.9150520561653
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.230295963804
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3941126231156
Kn_K36 L_L8 L_L10 0.8582339780928
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_18 1 2 3 4 REF
C_C1 1 REF 40.366421279829pf
C_C2 1 3 19.407953471017pf
C_C3 2 4 59.394117086855pf
C_C4 3 REF 1.2299307545515pf
C_C5 4 REF 0.6456667222138pf
R_R1 1 REF 73.126437121259
R_R2 1 2 -0.794999148456
R_R3 1 3 129.7888195866
R_R4 1 4 -46.4315775745
R_R5 2 REF -72.99741335652
R_R6 2 3 -129.780631034
R_R7 2 4 46.431777431685
L_L1 1 5 1.8100621757979nh
R_RL1 5 REF 0.0021408670458
L_L2 1 6 0.0674310665721nh
R_RL2 6 2 0.6813814014946
L_L3 1 7 1.4979036983138nh
R_RL3 7 3 0.2439829139624
L_L4 1 8 0.9888202255697nh
R_RL4 8 4 0.4568971260751
L_L5 2 9 1.8432909766956nh
R_RL5 9 REF 0.7319981407421
L_L6 2 10 1.4908062467337nh
R_RL6 10 3 0.1099358245052
L_L7 2 11 0.9697950689332nh
R_RL7 11 4 0.0220108399488
L_L8 3 12 3.2928006381274nh
R_RL8 12 REF 0.275011525995
L_L9 3 13 1.0197383387818nh
R_RL9 13 4 0.03303609351
L_L10 4 14 2.7870348324106nh
R_RL10 14 REF 0.4979437483503
Kn_K1 L_L1 L_L2 0.0489494841476
Kn_K2 L_L1 L_L5 0.9815832938405
Kn_K3 L_L1 L_L8 0.7383136245675
Kn_K4 L_L1 L_L10 0.8032521623515
Kn_K5 L_L2 L_L3 0.1172520729504
Kn_K6 L_L2 L_L4 0.1674085284939
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.095145605761
Kn_K9 L_L2 L_L7 -0.094645156228
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0227432490695
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6026917320722
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9774408254522
Kn_K16 L_L3 L_L7 0.5776567941177
Kn_K17 L_L3 L_L8 0.8116068108131
Kn_K18 L_L3 L_L9 -0.618501210737
Kn_K19 L_L3 L_L10 0.882991866968
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5685208279093
Kn_K22 L_L4 L_L7 0.9656176276763
Kn_K23 L_L4 L_L8 0.9989159757556
Kn_K24 L_L4 L_L9 0.2542695969769
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0124559425475
Kn_K27 L_L5 L_L8 0.739812848455
Kn_K28 L_L5 L_L10 0.8075062934738
Kn_K29 L_L6 L_L7 0.5991590160497
Kn_K30 L_L6 L_L8 0.822636956694
Kn_K31 L_L6 L_L9 -0.624808700844
Kn_K32 L_L6 L_L10 0.8979088713609
Kn_K33 L_L7 L_L8 1.0
Kn_K34 L_L7 L_L9 0.2507544595827
Kn_K35 L_L7 L_L10 1.0
Kn_K36 L_L8 L_L9 0.4162519717789
Kn_K37 L_L8 L_L10 0.8351701061247
Kn_K38 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_19 1 2 3 4 REF
C_C1 1 2 272.47910456444pf
C_C2 1 4 3.0740551034745pf
C_C3 2 REF 2.629066225379pf
C_C4 2 3 1.0429883251103pf
C_C5 3 REF 1.0796597479982pf
C_C6 4 REF 1.1044122296654pf
R_R1 1 2 -48.09589756762
L_L1 1 5 41.266499298232nh
R_RL1 5 REF 1.2138529579717
L_L2 1 6 0.18233839158nh
R_RL2 6 2 0.0125895026416
L_L3 1 7 16.171750999748nh
R_RL3 7 3 -0.012092324259
L_L4 1 8 15.475914974394nh
R_RL4 8 4 -0.013980275134
L_L5 2 9 40.841885606788nh
R_RL5 9 REF 1.1412171062511
L_L6 2 10 16.296199353177nh
R_RL6 10 3 0.0077363767867
L_L7 2 11 15.608421382211nh
R_RL7 11 4 0.0074267927898
L_L8 3 12 57.0515573299nh
R_RL8 12 REF 1.1630837838016
L_L9 3 13 1.273563290221nh
R_RL9 13 4 2.4332394757e-5
L_L10 4 14 56.340721537698nh
R_RL10 14 REF 1.160582934176
Kn_K1 L_L1 L_L2 0.1106334705966
Kn_K2 L_L1 L_L5 0.9977926384923
Kn_K3 L_L1 L_L8 0.8464971003962
Kn_K4 L_L1 L_L10 0.8516648351658
Kn_K5 L_L2 L_L3 0.0168560673341
Kn_K6 L_L2 L_L4 0.0148323837573
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.088986550458
Kn_K9 L_L2 L_L7 -0.093314251749
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9599901362301
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9943913544394
Kn_K15 L_L3 L_L7 0.9540847089251
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.216977648377
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9547486155638
Kn_K21 L_L4 L_L7 0.9941431073845
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0650660487915
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8451987544071
Kn_K26 L_L5 L_L10 0.8502735263075
Kn_K27 L_L6 L_L7 0.9603053294518
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.215263173524
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0656929448943
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1164005423509
Kn_K35 L_L8 L_L10 0.9887879473677
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_20 1 2 3 4 REF
C_C1 1 REF 0.0940681381109pf
C_C2 1 2 71.609936225136pf
C_C3 1 4 0.8519896693241pf
C_C4 2 REF 1.143897491511pf
C_C5 2 3 0.3188659563493pf
C_C6 3 REF 1.0846928326768pf
C_C7 4 REF 1.0865214095912pf
R_R1 1 2 -287.1637018378
L_L1 1 5 0.6339924038294nh
R_RL1 5 2 0.4291777294493
L_L2 1 6 60.208478375071nh
R_RL2 6 3 -0.05672406265
L_L3 1 7 59.360713536247nh
R_RL3 7 4 -0.058444059336
L_L4 2 8 60.867309741249nh
R_RL4 8 3 0.3817489957155
L_L5 2 9 60.024910458262nh
R_RL5 9 4 0.3699865888375
L_L6 3 10 1.2867693998174nh
R_RL6 10 4 1.0750649926e-4
Kn_K1 L_L1 L_L4 -0.104057946733
Kn_K2 L_L1 L_L5 -0.105220473199
Kn_K3 L_L2 L_L3 0.9892631520232
Kn_K4 L_L2 L_L4 0.9947784007712
Kn_K5 L_L2 L_L5 0.9839812427274
Kn_K6 L_L2 L_L6 -0.121253404586
Kn_K7 L_L3 L_L4 0.9841459104765
Kn_K8 L_L3 L_L5 0.9947049356881
Kn_K9 L_L3 L_L6 0.0251153432518
Kn_K10 L_L4 L_L5 0.9893800814055
Kn_K11 L_L4 L_L6 -0.120292252789
Kn_K12 L_L5 L_L6 0.0252812607098
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_21 1 2 3 4 REF
C_C1 1 REF 0.4038992619196pf
C_C2 1 2 30.709128745948pf
C_C3 1 3 0.0152024727866pf
C_C4 1 4 0.3976469334022pf
C_C5 2 REF 0.8463283216517pf
C_C6 2 3 0.1694673499893pf
C_C7 3 REF 1.0859173846803pf
C_C8 4 REF 1.0814989799898pf
L_L1 1 5 0.9432197440307nh
R_RL1 5 2 0.1338914220566
L_L2 3 6 1.288629804839nh
R_RL2 6 4 3.9777184156e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_22 1 2 3 4 REF
C_C1 1 REF 0.5163663628128pf
C_C2 1 2 16.554928836974pf
C_C3 1 3 0.0720935540615pf
C_C4 1 4 0.2386970550247pf
C_C5 2 REF 0.7499750696001pf
C_C6 2 3 0.1148642405433pf
C_C7 3 REF 1.0866150998823pf
C_C8 4 REF 1.0787685815455pf
L_L1 1 5 1.279430647245nh
R_RL1 5 2 -8.817550223e-3
L_L2 3 6 1.2861444974184nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_23 1 2 3 4 REF
C_C1 1 REF 0.5678049175373pf
C_C2 1 2 10.675727986082pf
C_C3 1 3 0.1017919948591pf
C_C4 1 4 0.170987328324pf
C_C5 2 REF 0.7165965613404pf
C_C6 2 3 0.0888280400508pf
C_C7 2 4 0.0322380591617pf
C_C8 3 REF 1.0863169917245pf
C_C9 4 REF 1.0765193023632pf
L_L1 1 5 1.6620116005225nh
R_RL1 5 2 -0.099981536762
L_L2 3 6 1.2833833491661nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_24 1 2 3 4 REF
C_C1 1 REF 0.5935970509215pf
C_C2 1 2 8.2694888149087pf
C_C3 1 3 0.1237868323005pf
C_C4 1 4 0.139439095644pf
C_C5 2 REF 0.7097339305813pf
C_C6 2 3 0.0728400935131pf
C_C7 2 4 0.0693721914128pf
C_C8 3 REF 1.0843837660542pf
C_C9 4 REF 1.0746581954595pf
L_L1 1 5 1.8424479800545nh
R_RL1 5 2 -0.017418572441
L_L2 3 6 1.2798172096651nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_25 1 2 3 4 REF
C_C1 1 REF 0.6068382466402pf
C_C2 1 2 7.8772635810507pf
C_C3 1 3 0.1474064659934pf
C_C4 1 4 0.1238344173158pf
C_C5 2 REF 0.7218949655106pf
C_C6 2 3 0.0563008119157pf
C_C7 2 4 0.092152310363pf
C_C8 3 REF 1.0823733155423pf
C_C9 4 REF 1.0723125561972pf
L_L1 1 5 1.8597499277279nh
R_RL1 5 2 -1.551964299e-3
L_L2 3 6 1.2754386448474nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_26 1 2 3 4 REF
C_C1 1 REF 0.6090567845561pf
C_C2 1 2 8.5310827753266pf
C_C3 1 3 0.1683407282561pf
C_C4 1 4 0.1180347859776pf
C_C5 2 REF 0.7399848105203pf
C_C6 2 3 0.0408900674124pf
C_C7 2 4 0.1038108130224pf
C_C8 3 REF 1.0808576714654pf
C_C9 4 REF 1.0703047429415pf
L_L1 1 5 1.7416004105849nh
R_RL1 5 2 2.9466864345e-5
L_L2 3 6 1.2735566962843nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param07_26

